US05292732
3-(1,3-Dioxolan-2-yl)-4'-(trifluoromethyl)-propiophenone (6.4 g) was added under argon and while stirring to a solution of 4.8 g of N-acetylethylenediamine in 70 ml of acetic acid. The reaction mixture was refluxed overnight, the acetic acid was subsequently removed in a vacuum. The residue was taken up in 200 ml of methylene chloride and washed with a mixture of 100 ml of saturated sodium hydrogen carbonate solution and 70 ml of 2N sodium hydroxide solution. The aqueous phase was back-extracted twice with 100 ml of methylene chloride each time, the organic phases were combined, dried with MgSO4 and freed from solvent. The residue, 9.4 g of yellow-brown solid was chromatographed on 500 g of silica gel with ethyl acetate as the eluent. 5.4 g (78%) of N-[2-[2-[4-(trifluoromethyl)phenyl]-pyrrol-1-yl]ethyl]acetamide were isolated as a yellow amorphous solid. MS: m/e=296 (M+).

reactant | 3-(1,3-Dioxolan-2-yl)-4'-(trifluoromethyl)-propiophenone | 6.4 g | O1C(OCC1)CCC(=O)C1=CC=C(C=C1)C(F)(F)F | C13H13F3O3
reactant | N-acetylethylenediamine | 4.8 g | C(C)(=O)NCCN | C4H10N2O
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | N-[2-[2-[4-(trifluoromethyl)phenyl]-pyrrol-1-yl]ethyl]acetamide | 5.4 g, 78% | FC(C1=CC=C(C=C1)C=1N(C=CC1)CCNC(C)=O)(F)F | C15H15F3N2O
